US08461147B2
c) Procedure for synthesising N-{3-[(2,5-dichloro-pyrimidin-4-ylamino)-methyl]-pyridin-2-yl}-N-methyl-methanesulphonamide A-2b
2,4,5-trichloropyrimidine (1.0 g, 5.45 mmol) is suspended in 20 mL DCM and the reaction mixture is cooled to 0° C. Then a solution of N-(3-aminomethyl-pyridin-2-yl)-N-methyl-methanesulphonamide (1.17 g, 5.45 mmol) and DIPEA (1.95 mL, 10.9 mmol) in 10 mL DCM is added and the mixture is stirred overnight. The reaction mixture is diluted with DCM and washed 3× with 1 N NH4Cl solution. The organic phase is dried on magnesium sulphate and evaporated down in vacuo. The crude product A-2b (HPLC-MS: tRet.=2.00 min; MS (M+H)+=362) is used in successive reactions without further purification.

reactant | 2,4,5-trichloropyrimidine | 5.45 mmol, 1.0 g | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
reactant | N-(3-aminomethyl-pyridin-2-yl)-N-methyl-methanesulphonamide | 5.45 mmol, 1.17 g | NCC=1C(=NC=CC1)N(S(=O)(=O)C)C | C8H13N3O2S
reactant | DIPEA | 10.9 mmol, 1.95 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-{3-[(2,5-dichloro-pyrimidin-4-ylamino)-methyl]-pyridin-2-yl}-N-methyl-methanesulphonamide | ClC1=NC=C(C(=N1)NCC=1C(=NC=CC1)N(S(=O)(=O)C)C)Cl | C12H13Cl2N5O2S
